US04058549
Preparation of N-Methyl-N-(2-methyl-1,3-dichloro-2-propanesulfenyl)carbamoyl chloride.
To a solution of 16.0g of N-methyl-N-chlorosulfenyl carbamoyl chloride in 100 ml of methylene chloride was added 12.0g of methallyl chloride with stirring, at room temperature. On slight heating there was a spontaneous exotherm which raised the temperature of the reaction mixture to 39° C. On removal of the solvent under reduced pressure 19.6g of oil was obtained.

reactant | N-methyl-N-chlorosulfenyl carbamoyl chloride | 16.0g | CN(C(=O)Cl)SCl | C2H3Cl2NOS
reactant | methallyl chloride | 12.0g | C(C(C)=C)Cl | C4H7Cl
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-Methyl-N-(2-methyl-1,3-dichloro-2-propanesulfenyl)carbamoyl chloride | CN(C(=O)Cl)SC(CCl)(CCl)C | C6H10Cl3NOS
